US08124786B2
1-Bromo-2-(1,3-dimethylbutyl)benzene
28.4 g of 2-(1,3-dimethylbutyl)aniline in 134.9 g (667 mmol) of 40 percent hydrobromic acid in glacial acetic acid at 10° C. are admixed with 12.5 g (181 mmol) of sodium nitrite in portions with stirring within 1.5 h. Thereafter, 0.5 g of copper powder is added and the mixture is boiled under reflux for 1 h hour. Subsequently, 120 ml of water and sodium hydroxide solution are added until pH 12 is attained, and the organic phase is removed, washed with dilute hydrochloric acid and concentrated by evaporation under reduced pressure. After distillation in a Kugelrohr apparatus at 0.3 mbar/70° C. and purification of the main fraction by means of preparative HPLC, 8.3 g of a yellowish oil with a purity of 99.4% (determined by HPLC) are obtained.

reactant | 2-(1,3-dimethylbutyl)aniline | 28.4 g | CC(CC(C)C)C1=C(N)C=CC=C1 | C12H19N
reactant | hydrobromic acid | 667 mmol, 134.9 g | Br | BrH
reactant | sodium nitrite | 181 mmol, 12.5 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | copper | 0.5 g | [Cu] | Cu
solvent | water | 120 ml | O | H2O
product | 1-Bromo-2-(1,3-dimethylbutyl)benzene | BrC1=C(C=CC=C1)C(CC(C)C)C | C12H17Br
